US05500338
(Tetraethylene glycol monomethyl ether mesylate)
A solution of 8.16 g (0.040M) of tetraethylene glycol monomethyl ether and 5.0 g (0.044M) of methanesulfonyl chloride in 100 ml of methylene chloride was stirred at 0° C. while 5.7 g (0.044M) of diisopropylethylamine was added dropwise so the temperature remained below 5° C. Stirring was continued at 0° C. for 20 minutes and the temperature was allowed to rise to room temperature over 2 hours. The solution was washed twice with an equal volume of water. It was then dried and concentrated to an oil, yielding 11 g (96%).

reactant | tetraethylene glycol monomethyl ether | 0.040M, 8.16 g | COCCOCCOCCOCCO | C9H20O5
reactant | methanesulfonyl chloride | 0.044M, 5.0 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | 0.044M, 5.7 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Tetraethylene glycol monomethyl ether mesylate | S(C)(=O)(=O)OCCOCCOCCOCCOC | C10H22O7S
